US05530157
A mixture of 2-phenoxybenzaldehyde (2.12 g; 10.70 mmol) and methyl (triphenylphos-phoranylidene)acetate (4.01 g; 11.76 mmol) in 60 mL of THF was refluxed overnight. The reaction was cooled, diluted with ethyl acetate (50 mL) and washed with water (3X). The crude residue Was purified on a silica gel column eluting with hexane to obtain 1.4 g (52%) of 2-phenoxycinnamic acid, 1H NMR (CDCl3): δ 3.78 (s, 3H); 6.56 (d, 1H, J=16.1); 6.87 (d, 1H, J=8.5); 7.00 (d, 2H, J=7.5); 7.10-7.15 (m,2H); 7.28-7.33 (m, 3H); 7.36 (d, 1H, J=8.5); 8.02 (d, 2H, J=16.2).

reactant | 2-phenoxybenzaldehyde | 10.70 mmol, 2.12 g | O(C1=CC=CC=C1)C1=C(C=O)C=CC=C1 | C13H10O2
reactant | methyl (triphenylphos-phoranylidene)acetate | 11.76 mmol, 4.01 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-phenoxycinnamic acid | 1.4 g, 52% | O(C1=CC=CC=C1)C1=C(C=CC(=O)O)C=CC=C1 | C15H12O3
